2144-12-18 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Overnight was febrile to 102 degrees, received Tylenol X 2.  Cultures
   sent.  Hemodynamically stable.  Has no complaints this AM.
 NASAL SWAB - At [**2144-12-17**] 06:00 PM
 PICC LINE - START [**2144-12-17**] 06:00 PM
 SPUTUM CULTURE - At [**2144-12-17**] 06:30 PM
 EKG - At [**2144-12-17**] 09:30 PM
 BLOOD CULTURED - At [**2144-12-17**] 10:34 PM
   second set ( first set ED)
 BLOOD CULTURED - At [**2144-12-18**] 02:06 AM
   temp 102.0
 SPUTUM CULTURE - At [**2144-12-18**] 03:02 AM
 URINE CULTURE - At [**2144-12-18**] 03:03 AM
 FEVER - 102.0
F - [**2144-12-18**] 02:00 AM
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Metronidazole - [**2144-12-17**] 05:00 PM
   Levofloxacin - [**2144-12-17**] 06:00 PM
   Vancomycin - [**2144-12-18**] 02:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-12-17**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-18**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.8
C (101.8
   HR: 63 (63 - 82) bpm
   BP: 137/57(76) {120/41(67) - 161/67(84)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
             Total In:
                                                                    260 mL
                                                                    259 mL
   PO:
             TF:
   IVF:
                                                                    260 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    900 mL
   Urine:
                                                                  1,290 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,030 mL
                                                                   -641 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 97 (97 - 97) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 58
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/48/263/30/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 526
   Physical Examination
   Gen: awake, alert, communicative
   HEENT: no JVD but diff assessment  with thick neck, trach in place w/o
   erythema or swelling
   Pulm: no labored breathing, rhonchi on LLL and coarse crackles in RLL
   CV: regular rate and rhythm, no murmurs, rubs, gallops
   Abd: soft, somewhat TTP along midline inciscion, incision with erythema
   but no discharge, dressing in place
   Ext: + edema, but more diffusely swollen; pt has various surgical
   incisions that are starting to heal well
   Skin: psoriasis
   Labs / Radiology
   144 K/uL
   7.2 g/dL
   190 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.8 mEq/L
   34 mg/dL
   102 mEq/L
   139 mEq/L
   21.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2144-12-17**]  10:09 PM
                            [**2144-12-17**]  10:15 PM
                            [**2144-12-18**]  04:21 AM
   WBC
   8.1
   Hct
   21.2
   Plt
   144
   Cr
   2.0
   TropT
   0.10
   TCO2
   34
   Glucose
   190
   Other labs: PT / PTT / INR:17.3/33.9/1.6, CK / CKMB /
   Troponin-T:51//0.10, Lactic Acid:0.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 52yo M with DM, CRF, recent motorcycle trauma s/p ex-lap, trach
   and peg, presents after bradycardic syncopal episode at outpatient
   clinic today.
   .
   # Loss of Consciousness:  Possibly mucous plug or sepsis picture with
   likely PNA based on imaging and sputum which is growing 4+ GPCs in
   pairs, clusters, 1+ GNR, 1+ GPR.  Blood and urine cxs pending.  Mental
   status today appears at baseline and patient awoke last night and was
   alert and oriented.
   - will obtain echo to r/o outflow obstruction and wall motion abnl
   - monitor for arrythmias on tele
   - hold seroquel and lorazepam tonight as still drowsy
   - continue to treat with broad-spectrum abxs for possible sepsis and
   follow cultures
   .
   # Aspiration PNA: Mixed picture based on sputum gram stain showing
   GPCs, GNR, GPRs.
   - Vanc/Zosyn
   - f/u cultures
   - nasal viral swab and urine legionella
   - will attempt trach collar today without vent
   .
   #CHF: patient appears somewhat volume overloaded and BNP is elevated,
   EF unkown. Got Lasix 20mg IV last night with good response.
   - home dose lasix 20mg in am
   - cont imdur
   - cont amlodipine
   - f/u echo
   .
   # ARF: 2.0 but decreasing from approx 4.0 after MVA
   - will monitor
   - cont Phoslo 667mg PO TID
   .
   # HTN:
   - cont hydralazine, amlodipine and imdur
   .
   # CAD
   - uptitrate B-blocker as BP tolerates.
   - cont amlodipine
   - continue ASA
   - continue Imdur
   .
   # DM: QID fingersticks, continue lantus.  Pt did not get lantus last
   night, will restart lantus with tube feeds today.
   - Humalog SS
   .
   # Hypercholesterolemia
   - continue Gemfibrozil
   .
   # s/p trauma with multiple surgeries
   - wound care consult
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: start tube feeds today; cont reglan
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-12-19 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-12-18**] 09:19 AM
 INVASIVE VENTILATION - STOP [**2144-12-18**] 03:00 PM
   intubated in ER
 FEVER - 101.2
F - [**2144-12-18**] 11:30 PM
   - CTA and CT of abd with PO contrast only.
   - Obtained an ECHO
   - Speech and Swallow consult for Passy Miur valve placement: need to
   f/u
   - Midline placed.
   - Wound care consult: will need to touch base with surgery team.
   - Nephrologist indicated that he will need at least 40 of lasix/day
   (80mg/day at home).
   - ISS and Glargine regimine was up-titrated.
   - ID approved the Zosyn.
   - Culture results + for MRSA
   - Guaiac negative stool
   - Anemia labs sent.
   - Transfused 2 units for dropping hct
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Metronidazole - [**2144-12-17**] 05:00 PM
   Levofloxacin - [**2144-12-17**] 06:00 PM
   Vancomycin - [**2144-12-18**] 10:00 PM
   Piperacillin - [**2144-12-18**] 11:50 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2144-12-18**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2144-12-18**] 08:32 AM
   Furosemide (Lasix) - [**2144-12-18**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-19**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.1
C (100.5
   HR: 66 (58 - 92) bpm
   BP: 128/57(73) {115/45(65) - 159/73(92)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
           Total In:
                                                                  3,159 mL
                                                                    406 mL
   PO:
           TF:
                                                                    119 mL
                                                                    200 mL
   IVF:
                                                                  1,140 mL
                                                                     56 mL
   Blood products:
                                                                    600 mL
                                                                    150 mL
   Total out:
                                                                  2,660 mL
                                                                    395 mL
   Urine:
                                                                  2,660 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    499 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 378 (290 - 4,417) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 10.6 L/min
   Physical Examination
   Gen: awake, alert, communicative
   HEENT: no JVD but diff assessment  with thick neck, trach in place w/o
   erythema or swelling
   Pulm: no labored breathing, rhonchi on LLL and coarse crackles in RLL
   CV: regular rate and rhythm, no murmurs, rubs, gallops
   Abd: soft, somewhat TTP along midline inciscion, incision with erythema
   but no discharge, dressing in place
   Ext: + edema, but more diffusely swollen; pt has various surgical
   incisions that are starting to heal well
   Skin: psoriasis
   Labs / Radiology
   154 K/uL
   8.1 g/dL
   109 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.3 mEq/L
   31 mg/dL
   102 mEq/L
   140 mEq/L
   23.7 %
   8.3 K/uL
        [image002.jpg]
                            [**2144-12-17**]  10:09 PM
                            [**2144-12-17**]  10:15 PM
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
   WBC
   8.1
   8.3
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   Plt
   144
   154
   Cr
   2.0
   2.3
   TropT
   0.10
   0.11
   TCO2
   34
   Glucose
   190
   109
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL;  Fe 10, calcTIBC 143,
   Ferritin 608, TRF 110, Hapto 410, retic count 2.1
   CT: Minimal amount of free fluid in the perihepatic space and deep
   pelvis, new when compared to prior exam. No evidence of retroperitoneal
   bleed.
   ECHO: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2315**], LV thickness wnl, LVEF >55%, minimal resting LV
   outflow obstruction; RV size & wall motion wnl, AV mildly thickened
   without AV stenosis or AR; MV mildly thickened with trivial MR, TV
   mildly thickened, no pericardial effusion.
   Assessment and Plan
   A/P: 52yo M with DM, CRF, recent motorcycle trauma s/p ex-lap, trach
   and peg, presents after bradycardic syncopal episode at outpatient
   clinic today.
   .
   # Loss of Consciousness:  Possibly mucous plug or CHF exacerbation.
   ECHO yesterday not suggestive of CHF though pt. had already clinically
   improved.   Mental status today appears at baseline
   - hold seroquel and lorazepam tonight as still drowsy
   - continue to treat with broad-spectrum abxs for possible sepsis and
   follow cultures
   .
   # Aspiration PNA: Sputum growing MRSA
   - Cont. Vanc; stop zosyn
   - nasal viral swab and urine legionella
   - will attempt trach collar today without vent
   .
   #CHF: patient still appears somewhat volume overloaded.  ECHO does not
   suggest severe CHF.   Was on lasix 80 mg daily at home prior to
   accident, but has only been getting 20 mg at rehab.  Received 20 mg
   lasix after transfusion earlier this morning.
   - Lasix 40mg early this afternoon.
   - cont imdur
   - cont amlodipine
   .
   # ARF: 2.3 today.  Likely elevated due to contrast load from CTA.
   - will monitor
   - cont Phoslo 667mg PO TID
   .
   # HTN:
   - cont hydralazine, amlodipine and imdur
   .
   # CAD
   - uptitrate B-blocker as BP tolerates.
   - cont amlodipine
   - continue ASA
   - continue Imdur
   .
   # DM: QID fingersticks, continue lantus.  Pt did not get lantus last
   night, will restart lantus with tube feeds today.
   - Humalog SS
   .
   # Hypercholesterolemia
   - continue Gemfibrozil
   - check fasting lipids as pt. is not on many of his previous outpatient
   lipid medications.
   .
   # s/p trauma with multiple surgeries.  Wound care consult recs
   received.  Surgery reviewed and recommends damp to dry dressings
   throughout.
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: Tube feeds started [**12-18**]; cont reglan
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # Anemia: Reason for need for repeated transfusions is unclear.  CT
   shows no evidence of RP bleed or bleeding into the lower extremities.
   Anemia labs show no evidence of hemolysis or iron deficiency.  Stool
   guiaics are negative.  Will continue to trend hct and transfuse for hct
   < 21.
   ------ Protected Section Addendum Entered By:[**Name (NI) 432**] [**Last Name (NamePattern1) 2316**], MD
   on:[**2144-12-19**] 16:38 ------

2144-12-19 12:56:00 Physician Attending Progress Note
Chief Complaint: Cardiac arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man was admitted to [**Hospital1 5**], in [**Month (only) **] for 3 wks with motor
   cycle injury, multiple factures, trach and PEG.  Went to [**Hospital1 **],
   where he was doing well, until couple days ago with increasing LE
   edema, SOB. came to [**Hospital1 5**] for appointment at [**Hospital Ward Name 2240**].  Coded - was
   pulseless, got Chest compressions, atropine, and regained pulse.  Went
   to ED and then MICU found to be volume overloaded, placed back on
   vent.  Has been febrile.  transfused 2U.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-12-18**] 09:19 AM
 INVASIVE VENTILATION - STOP [**2144-12-18**] 03:00 PM
   intubated in ER
 FEVER - 101.2
F - [**2144-12-18**] 11:30 PM
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Metronidazole - [**2144-12-17**] 05:00 PM
   Levofloxacin - [**2144-12-17**] 06:00 PM
   Piperacillin - [**2144-12-19**] 08:15 AM
   Vancomycin - [**2144-12-19**] 09:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-12-19**] 08:45 AM
   Other medications:
   lopid
   hydralizine
   reglan
   asa
   thiamine
   chlorhex
   vanco
   Glargin and SSI
   isordil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-19**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.6
   HR: 69 (54 - 92) bpm
   BP: 126/63(77) {115/43(65) - 159/73(92)} mmHg
   RR: 27 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
           Total In:
                                                                  3,339 mL
                                                                  1,348 mL
   PO:
           TF:
                                                                    199 mL
                                                                    604 mL
   IVF:
                                                                  1,140 mL
                                                                    434 mL
   Blood products:
                                                                    600 mL
                                                                    150 mL
   Total out:
                                                                  2,660 mL
                                                                    920 mL
   Urine:
                                                                  2,660 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    679 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 161 (161 - 4,417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   154 K/uL
   109 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.3 mEq/L
   31 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2144-12-17**]  10:09 PM
                            [**2144-12-17**]  10:15 PM
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
                             [**2144-12-19**]  07:36 AM
   WBC
   8.1
   8.3
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   23.3
   Plt
   144
   154
   Cr
   2.0
   2.3
   TropT
   0.10
   0.11
   TCO2
   34
   Glucose
   190
   109
   Other labs: PT / PTT / INR:17.3/33.9/1.6, CK / CKMB /
   Troponin-T:51//0.11, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   LDH:166 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CT:  mininal abd fluid, no RP bleed.  No change
   Echo:  LVEF>55%, LAD, nl LV thickness.  RV normal.
   CXRL
   Microbiology: sputum: 4+ Coag + staph.
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ANEMIA, OTHER:  Unclear why Hct still drifting down.  No evidence of
   bleeding - guaiac negative and no RP bleed on imaging.  Continue to
   follow for now.
 TRAUMA, S/P
 IMPAIRED SKIN INTEGRITY: Abdominal wound care.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Might have coded due to
   vagal episode or CHF.  doubt sepsis or PNA.  Continue vanco for now
   for MRSA in sputum pending other cultures.
   can stop other antibiotics.  Wean to trach collar
   HTN. Can restart some antihypertensive
   Acute on chronic diastolic CHF:  Continue gentle diuresis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-12-18**] 09:30 PM 60 mL/hour
   Comments: TF
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2144-12-20 05:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Surgery wound recommends damp to dry
   Zosyn stopped
   Pm [**12-19**] hct stable (23.3), 22.7 in AM of [**12-20**]
   Started on low dose metoprolol (part of outpt regimen, but pt.
   bradycardic on admission)
   AM lipid panel ordered (pt. not on home antihyperlipidemia regimen)
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Metronidazole - [**2144-12-17**] 05:00 PM
   Levofloxacin - [**2144-12-17**] 06:00 PM
   Piperacillin - [**2144-12-19**] 08:15 AM
   Vancomycin - [**2144-12-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-12-19**] 08:45 AM
   Furosemide (Lasix) - [**2144-12-19**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-20**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 54 (54 - 76) bpm
   BP: 148/71(90) {110/50(65) - 162/73(92)} mmHg
   RR: 21 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
             Total In:
                                                                  2,989 mL
                                                                    463 mL
   PO:
             TF:
                                                                  1,300 mL
                                                                    354 mL
   IVF:
                                                                  1,189 mL
                                                                     59 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,990 mL
                                                                    260 mL
   Urine:
                                                                  2,990 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (161 - 619) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 7.9 L/min
   Physical Examination
   Gen: awake, alert, communicative
   HEENT: no JVD but diff assessment  with thick neck, trach in place w/o
   erythema or swelling
   Pulm: no labored breathing, rhonchi on LLL and coarse crackles in RLL
   CV: regular rate and rhythm, no murmurs, rubs, gallops
   Abd: soft, somewhat TTP along midline inciscion, incision with erythema
   but no discharge, dressing in place
   Ext: + edema, but more diffusely swollen; pt has various surgical
   incisions that are starting to heal well
   Skin: psoriasis
   Labs / Radiology
   154 K/uL
   8.1 g/dL
   135 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   32 mg/dL
   102 mEq/L
   141 mEq/L
   23.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2144-12-17**]  10:09 PM
                            [**2144-12-17**]  10:15 PM
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
                             [**2144-12-19**]  07:36 AM
                             [**2144-12-19**]  05:51 PM
   WBC
   8.1
   8.3
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   23.3
   23.3
   Plt
   144
   154
   Cr
   2.0
   2.3
   2.3
   TropT
   0.10
   0.11
   TCO2
   34
   Glucose
   190
   109
   135
   Other labs: PT / PTT / INR:17.3/33.9/1.6, CK / CKMB /
   Troponin-T:51//0.11, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 52yo M with DM, CRF, recent motorcycle trauma s/p ex-lap, trach
   and peg, presents after bradycardic syncopal episode at outpatient
   clinic today.
   .
   # Loss of Consciousness:  Possibly mucous plug or CHF exacerbation.
   ECHO yesterday not suggestive of CHF though pt. had already clinically
   improved.   Mental status today appears at baseline
   - hold seroquel and lorazepam tonight as still drowsy
   - stop abx for now as pt is likely MRSA carrier and is no longer
   febrile, unlikely to have PNA
   - continue to diurese with goal -1L today
   .
   # Aspiration PNA: Sputum growing MRSA; however pt is likely colonized
   and this does not represent true PNA.
   - abx stopped; will consider restarting if persistently hypoxic or
   febrile
   - nasal viral swab and urine legionella
   - trach collar today
   .
   #CHF: patient still appears somewhat volume overloaded.  ECHO does not
   suggest severe CHF.   Was on lasix 80 mg daily at home prior to
   accident, but has only been getting 20 mg at rehab.
   - Lasix 40mg IV X 1 this AM, will assess later and aim for -1L today
   - cont imdur
   - cont amlodipine
   .
   # ARF: 2.3 today.  Likely elevated due to contrast load from CTA.  Also
   baseline had elevated creatinine which is stable.
   - will monitor
   - cont Phoslo 667mg PO TID
   .
   # HTN:
   - cont hydralazine, amlodipine and imdur
   .
   # CAD
   - uptitrate B-blocker as BP tolerates.
   - cont amlodipine
   - continue ASA
   - continue Imdur
   .
   # DM: QID fingersticks, continue lantus.
   - Humalog SS
   .
   # Hypercholesterolemia
   - continue Gemfibrozil
   - f/u fasting lipids.
   .
   # s/p trauma with multiple surgeries.  Wound care consult recs
   received.  Surgery reviewed and recommends damp to dry dressings
   throughout.
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: Tube feeds started [**12-18**]; cont reglan
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: possibly to rehab tomorrow
   - OOB today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-12-19**] 04:43 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-12-20 12:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man s/o MVA, prolonged hospital say, T+G, coded at outpt visit.
   LIkely fluid overloaded and vagal episode
   24 Hour Events:
   Doing well.  Has been afebrile since yesterday.
   Tolerated TM for day yesterday, on vent overnight, and back on TM
   today.
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Metronidazole - [**2144-12-17**] 05:00 PM
   Levofloxacin - [**2144-12-17**] 06:00 PM
   Piperacillin - [**2144-12-19**] 08:15 AM
   Vancomycin - [**2144-12-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-12-19**] 02:00 PM
   Other medications:
   glargine/SSI
   calcium
   lopid
   hydral
   reglan
   asa
   thiamine
   vanco
   protonix
   lasix
   norvasc
   isordil
   lopressor
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-20**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 56 (54 - 69) bpm
   BP: 140/59(79) {110/50(65) - 162/75(94)} mmHg
   RR: 19 (8 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
             Total In:
                                                                  2,991 mL
                                                                  1,143 mL
   PO:
             TF:
                                                                  1,302 mL
                                                                    714 mL
   IVF:
                                                                  1,189 mL
                                                                    319 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,990 mL
                                                                    805 mL
   Urine:
                                                                  2,990 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (161 - 619) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: over knuckles and knees
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   187 K/uL
   118 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.4 mEq/L
   32 mg/dL
   102 mEq/L
   140 mEq/L
   22.7 %
   5.6 K/uL
        [image002.jpg]
                            [**2144-12-17**]  10:09 PM
                            [**2144-12-17**]  10:15 PM
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
                             [**2144-12-19**]  07:36 AM
                             [**2144-12-19**]  05:51 PM
                             [**2144-12-20**]  05:06 AM
   WBC
   8.1
   8.3
   5.6
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   23.3
   23.3
   22.7
   Plt
   144
   154
   187
   Cr
   2.0
   2.3
   2.3
   2.1
   TropT
   0.10
   0.11
   TCO2
   34
   Glucose
   190
   109
   135
   118
   Other labs: PT / PTT / INR:16.8/33.0/1.5, CK / CKMB /
   Troponin-T:51//0.11, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   LDH:166 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Microbiology: Sputum: MRSA
   Assessment and Plan
 PNEUMONIA, ASPIRATION:  Doubt PNA, so will stop vanco and CT and CXR
   are more c/w fluid overload.
 ANEMIA, OTHER
 TRAUMA, S/P
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Much improved, looks
   great on TM.  Likely was fluid overloaded and had vasovagal episode.
   continue diuresis goal 1L negative.
   Acute renal failure:  Improved creatinine.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-12-20**] 09:19 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-12-21 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got 40mg IV lasix X 2, diuresed well
   Abx stopped
   Pt tolerated trach mask during day
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Piperacillin - [**2144-12-19**] 08:15 AM
   Vancomycin - [**2144-12-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-21**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 57 (54 - 66) bpm
   BP: 142/68(86) {121/48(68) - 158/75(94)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
                  Total In:
                                                                  2,242 mL
                                                                    446 mL
   PO:
                                                                    240 mL
                  TF:
                                                                  1,444 mL
                                                                    336 mL
   IVF:
                                                                    358 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    950 mL
   Urine:
                                                                  3,205 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -963 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 903 (903 - 903) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 9 L/min
   Physical Examination
   Gen: awake, alert, communicative, AOx3.  Breathing comfortably on trach
   mask.
   HEENT: no JVD but diff assessment  with thick neck, trach in place w/o
   erythema or swelling
   Pulm: CTAB, no wheezes/rales, rhonchi.
   CV: regular rate and rhythm, no murmurs, rubs, gallops
   Abd: soft, non tender to palpation, incision with erythema but no
   discharge, dressing in place
   Ext: + edema, but more diffusely swollen; pt has various surgical
   incisions that are starting to heal well
   Skin: psoriasis, with koebnerization at incision sites.
   Labs / Radiology
   193 K/uL
   7.6 g/dL
   157 mg/dL
   1.9 mg/dL
   33 mEq/L
   4.5 mEq/L
   32 mg/dL
   101 mEq/L
   141 mEq/L
   21.8 %
   4.7 K/uL
        [image002.jpg]
   Radiology- abdominal CT- small amount of perihepatic fluid,
   rectosigmoid fluid, but no evidence of bleed.  Some abdominal
   lymphadenopathy, but none pathologic by radiologic criteria
   Chest CT- atelectasis, some vascular congestion, some mediastinal LAD.
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
                             [**2144-12-19**]  07:36 AM
                             [**2144-12-19**]  05:51 PM
                             [**2144-12-20**]  05:06 AM
                             [**2144-12-20**]  03:40 PM
                             [**2144-12-21**]  04:03 AM
   WBC
   8.1
   8.3
   5.6
   4.7
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   23.3
   23.3
   22.7
   21.8
   Plt
   144
   154
   187
   193
   Cr
   2.0
   2.3
   2.3
   2.1
   2.1
   1.9
   TropT
   0.11
   Glucose
   190
   109
   135
   118
   157
   Other labs: PT / PTT / INR:16.8/33.0/1.5, CK / CKMB /
   Troponin-T:51//0.11, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   LDH:166 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4: 3.8 mg/dL.
   Assessment and Plan
   A/P: 52yo M with DM, CRF, recent motorcycle trauma s/p ex-lap, trach
   and peg, presents after bradycardic syncopal episode at outpatient
   clinic today.
   .
   # Loss of Consciousness:  Likely syncopal episode and bradycardia,
   given swift response to atropine and chest compressions. Possibly
   mucous plug or CHF exacerbation.  ECHO yesterday not suggestive of CHF
   though pt. had already clinically improved.   Mental status today
   appears at baseline
   - stop abx for now as pt is likely MRSA carrier and is no longer
   febrile, unlikely to have PNA
   - continue to diurese with goal -1L today
   .
   # Aspiration PNA: Sputum growing MRSA; however pt is likely colonized
   and this does not represent true PNA.
   - abx stopped; will consider restarting if persistently hypoxic or
   febrile
   - nasal viral swab and urine legionella
   #CHF: patient still appears somewhat volume overloaded.  ECHO does not
   suggest severe CHF.   Was on lasix 80 mg daily at home prior to
   accident, but has only been getting 20 mg at rehab.  On a large
   assortment of cardiac medications
   - Transition to home dose of 80 mg PO q AM
   -PM lytes
   - cont imdur
   - cont amlodipine
   .
   # ARF: 2.3 today.  Likely elevated due to contrast load from CTA.  Pt
   is now back at baseline elevated creatinine.  Renal artery stenosis
   would cause both renal insufficiency and htn, so may be cause of both.
   - will continue to monitor BUN, Cr, and potassium.
   - cont Phoslo 667mg PO TID
   # HTN:  Given several medications, should be worked up for secondary
   causes of htn, including RAS.
   -          cont hydralazine, amlodipine and imdur
   -          hold on ACE and [**Last Name (un) **] given renal insufficiency
   # CAD
   - uptitrate B-blocker as BP tolerates.
   - cont amlodipine
   - continue ASA
   - continue Imdur
   .
   # DM: QID fingersticks, continue lantus.
   - Humalog SS
   .
   # Hypercholesterolemia
   - continue Gemfibrozil
   - f/u fasting lipids.
   .
   # s/p trauma with multiple surgeries.  Wound care consult recs
   received.  Surgery reviewed and recommends damp to dry dressings
   throughout.
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: Tube feeds started [**12-18**]; cont reglan
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: possibly to rehab tomorrow.  Patient does not want to go back
   to [**Hospital1 25**], but may still need rehab care for rest on ventilator.
   - OOB today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-12-21**] 01:57 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   18 Gauge - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-12-22 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2144-12-22**] 12:00 AM
   Pt was restarted on home dose of Lasix 80mg PO qAM.  Tolerated trach
   mask overnight and throughout day yesterday.
   No lightheadedness, dizziness, fatigue.  Complaining of some hip pain
   this morning on the right side.  Able to walk yesterday without
   difficulty.  Able to tolerate eating foods.
   Allergies:
   Zestril (Oral) (Lisinopril)
   lightheadedness
   Last dose of Antibiotics:
   Piperacillin - [**2144-12-19**] 08:15 AM
   Vancomycin - [**2144-12-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-12-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-12-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-22**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 57 (55 - 65) bpm
   BP: 163/73(97) {118/55(71) - 163/74(97)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 130 kg (admission): 132 kg
   Height: 70 Inch
                  Total In:
                                                                  2,720 mL
                  PO:
                                                                  1,140 mL
                  TF:
                                                                  1,080 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                  1,220 mL
   Urine:
                                                                  3,110 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -390 mL
                                                                 -1,220 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ////
   Physical Examination
   Labs / Radiology
   193 K/uL
   7.7 g/dL
   105 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.7 mEq/L
   33 mg/dL
   101 mEq/L
   138 mEq/L
   22.6 %
   4.7 K/uL
        [image002.jpg]
                            [**2144-12-18**]  04:21 AM
                            [**2144-12-18**]  05:28 AM
                            [**2144-12-18**]  02:54 PM
                            [**2144-12-18**]  08:49 PM
                             [**2144-12-19**]  02:31 AM
                             [**2144-12-19**]  07:36 AM
                             [**2144-12-19**]  05:51 PM
                             [**2144-12-20**]  05:06 AM
                             [**2144-12-20**]  03:40 PM
                             [**2144-12-21**]  04:03 AM
   WBC
   8.1
   8.3
   5.6
   4.7
   Hct
   21.2
   21.1
   19.6
   21.8
   23.7
   23.3
   23.3
   22.7
   21.8
   Plt
   144
   154
   187
   193
   Cr
   2.0
   2.3
   2.3
   2.1
   2.1
   1.9
   TropT
   0.11
   Glucose
   190
   109
   135
   118
   157
   Other labs: PT / PTT / INR:16.8/33.0/1.5, CK / CKMB /
   Troponin-T:51//0.11, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   LDH:166 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A/P: 52yo M with DM, CRF, recent motorcycle trauma s/p ex-lap, trach
   and peg, presents after bradycardic syncopal episode at outpatient
   clinic today.
   .
   # Loss of Consciousness:  Possibly mucous plug or CHF exacerbation.
   ECHO yesterday not suggestive of CHF though pt. had already clinically
   improved.   Mental status appears at baseline.  Unclear overall
   etiology; however patient is improved clinically.
   - - stop abx for now as pt is likely MRSA carrier and is no longer
   febrile, unlikely to have PNA
   - continue home Lasix for CHF
   .
   # Anemia: workup for anemia has included guiac which is negative, iron
   studies consistent with iron-deficiency, retic count elevated.  Pt has
   had 2 CT scans of abdomen/pelvis which are negative for any source of
   bleeding as well as CT of the leg for bleeding into the thigh which is
   negative.  Records indicate that this is a chronic problem since his
   trauma 6 weeks ago and he has had occasional transfusions.  He did
   receive 1 unit PRBCs on admission.  Pt is asymptomatic from his anemia
   without tachycardia, hypotension, lightheadedness or fatigue.
   - recommend starting iron for iron-deficiency
   - can follow-up with outpatient hematology regarding further workup as
   this is not an inpatient issue
   - will transfuse 1 unit pRBCs today despite pt being asymptomatic in
   order to increase hematocrit prior to discharge.
   .
   #CHF: patient may be somewhat volume overloaded although has been
   improving.  ECHO does not suggest severe CHF.   Was on lasix 80 mg
   daily at home prior to accident, but has only been getting 20 mg at
   rehab.
   - will continue home lasix of 80mg PO qday
   - cont imdur
   - cont amlodipine
   .
   # ARF: 1.8 today which is close to baseline.  ARF is resolved.  Likely
   elevated due to contrast load from CTA.
   - will monitor
   - cont Phoslo 667mg PO TID
   .
   # HTN:
   - cont hydralazine, amlodipine and imdur
   .
   # CAD
   - continue b-blocker
   - cont amlodipine
   - continue ASA
   - continue Imdur
   .
   # DM: QID fingersticks, continue lantus.
   - Humalog SS
   .
   # Hypercholesterolemia
   - continue Gemfibrozil
   .
   # s/p trauma with multiple surgeries.  Wound care consult recs
   received. Surgery recommended damp to dry dressings.
   - per trauma surgery, okay to continue with aquacel dressing changes
   per wound care
   - manage trach and peg at outpatient surgery
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: Tube feeds started [**12-18**]; cont reglan
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: like to rehab tomorrow, called out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-12-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: